US04284631
The solution of 4-bromo-3-hydroxybenzyloxyamine phosphate (17.4 g.) in water (200 ml.) and ethanol (200 ml.) was stirred at room temperature and adjusted to pH 7.0 with sodium bicarbonate. 2-(2-Formamidothiazol-4-yl)glyoxylic acid (10.0 g.) was added to the solution and the resulting suspension was adjusted to pH 4.0 to 4.5. After stirring the solution at room temperature for 2 hours, ethanol was removed from the resultant solution in vacuo. Ethyl acetate was added to aqueous residue and adjusted to pH 2.5 with 10% hydrochloric acid. The ethyl acetate layer was separated, washed with water and dried over magnesium sulfate. The solution was concentrated in vacuo to give 2-(2-formamidothiazol-4-yl)-2-(4-bromo-3-hydroxybenzyloxyimino)acetic acid (syn isomer, 14.8 g.).

reactant | 4-bromo-3-hydroxybenzyloxyamine phosphate | 17.4 g | P(=O)(O)(O)O.BrC1=C(C=C(CON)C=C1)O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2-(2-Formamidothiazol-4-yl)glyoxylic acid | 10.0 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=O | C6H4N2O4S
solvent | water | 200 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(2-formamidothiazol-4-yl)-2-(4-bromo-3-hydroxybenzyloxyimino)acetic acid | 14.8 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC1=CC(=C(C=C1)Br)O | C13H10BrN3O5S
